US07741326B2
1-Bromo-3-iodo-5-methyl-2-(3-phenylallyloxy)-benzene (10.86 g, 25 mmol), tetrabutylammonium chloride (7.65 gm, 27.5 mmol), sodium carbonate (6.62 g, 62.46 mmol), sodium formate (1.7 g, 25 mmol), and bis(acetonitrile)dichloropalladium(II) (0.467 g, 1.8 mmol) was added to 50 ml DMF. The mixture was degassed and heated under nitrogen at 80° C. for 105 minutes, then cooled to room temperature. Water was added and the mixture was extracted with a hexanes/ethyl acetate (1:1) mixture. The solution was dried onto 20 gm silica gel, the silica gel was layered over 100 gm silica gel in a fritted funnel and eluted with four 400 ml portions of hexanes. The hexanes was removed under reduced pressure to give 3-benzyl-7-bromo-5-methyl-benzofuran (3.97 g, 52% yield). MS: (M+H)+ 302.

reactant | 1-Bromo-3-iodo-5-methyl-2-(3-phenylallyloxy)-benzene | 25 mmol, 10.86 g | BrC1=C(C(=CC(=C1)C)I)OCC=CC1=CC=CC=C1 | C16H14BrIO
reactant | sodium carbonate | 62.46 mmol, 6.62 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium formate | 25 mmol, 1.7 g | C(=O)[O-].[Na+]
catalyst | tetrabutylammonium chloride | 27.5 mmol, 7.65 gm | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(acetonitrile)dichloropalladium(II) | 1.8 mmol, 0.467 g | CC#N.CC#N.Cl[Pd]Cl
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-benzyl-7-bromo-5-methyl-benzofuran | 3.97 g, 52% yield | C(C1=CC=CC=C1)C1=COC2=C1C=C(C=C2Br)C | C16H13BrO
